US04435408
24.3 ml of trifluoroacetic acid anhydride were added at 0° to 10° C. to a mixture of 7 g of 4-(piperidin-3-yl)-1H-indole, 70 ml of chloroform and 48.6 ml of triethylamine and the mixture was stirred for 30 minutes and was diluted with water. The organic phase was decanted and the aqueous phase was extracted with chloroform. The combined organic phases were evaporated to dryness and the residue was chromatographed over silica gel. Elution with a 6-3-1 cyclohexane-chloroform-triethylamine mixture yielded 9.2 g of 4-(1-trifluoroacetylpiperidin-3-yl)-1H-indole melting at 170° C.

reactant | trifluoroacetic acid anhydride | 24.3 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 4-(piperidin-3-yl)-1H-indole | 7 g | N1CC(CCC1)C1=C2C=CNC2=CC=C1 | C13H16N2
reactant | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
reactant | triethylamine | 48.6 ml | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 4-(1-trifluoroacetylpiperidin-3-yl)-1H-indole | 9.2 g | FC(C(=O)N1CC(CCC1)C1=C2C=CNC2=CC=C1)(F)F | C15H15F3N2O
